US07514451B2
1-Benzyl-4-(R)-methyl-3-(R)-[(4-(S)-phenyl-2-oxazolidinon-3-yl)carbonyl]pyrrolidine (150 g) was dissolved in cyclopropylamine (650 mL). The mixture was stirred at room temperature for 23 hours and was concentrated under reduced pressure. Diisopropyl ether (800 mL) was added to the residue and the solution was stirred at room temperature for 70 min. The resulting crystals were filtered. The collected crystals were then dissolved in dichloromethane (800 mL) and the solution was extracted with 1 mol/L hydrochloric acid (2×400 mL). The layers of 1 mol/L hydrochloric acid were combined. While the combined layer was chilled in an ice water bath, a 30% aqueous NaOH solution was added to make the solution basic (pH 13). The resulting crystals were filtered, washed sequentially with water and diisopropyl ether, and dried under reduced pressure to give (3R,4R)-1-benzyl-N-cyclopropyl-4-methyl-3-pyrrolidinecarboxamide as white crystals (52.2 g).

reactant | 1-Benzyl-4-(R)-methyl-3-(R)-[(4-(S)-phenyl-2-oxazolidinon-3-yl)carbonyl]pyrrolidine | 150 g | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C)C(=O)N1C(OC[C@@H]1C1=CC=CC=C1)=O | C22H24N2O3
solvent | cyclopropylamine | 650 mL | C1(CC1)N | C3H7N
product | (3R,4R)-1-benzyl-N-cyclopropyl-4-methyl-3-pyrrolidinecarboxamide | 52.2 g | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C)C(=O)NC1CC1 | C16H22N2O
